US08623859B2
4-Methoxy-2,6-dimethyl-N-{5-[4-(1-methyl-piperidin-4-ylmethyl)-piperazine-1-carbonyl]-1,3,4-oxadiazol-2-ylmethyl}-benzenesulfonamide
4-methoxy-2,6-dimethylbenzenesulfonyl chloride (118 mg, 0.5 mmol) was added to a suspension of (5-Amino methyl-1,3,4-oxadiazol-2-yl)-[4-(1-methyl-piperidin-4-ylmethyl)-piperazin-1-yl]-methanone trihydrochloride (200 mg, 0.43 mmol) in DCM, under N2 and the mixture was cooled to −30° C. DIPEA (376 μL, 2.15 mmol) was added over about 3 min and the resultant pink solution was stirred at −30° C. for 30 min and then at ambient temperature for 16 h. The mixture was diluted with saturated aqueous NaHCO3 and extracted with DCM (×2). The combined organic extracts were dried over MgSO4 and concentrated in vacuo to a brown gum which was purified using FCC, eluting with 5% NH3 (2.0 M in MeOH) in DCM, to give the title compound as a clear gum.

reactant | 4-methoxy-2,6-dimethylbenzenesulfonyl chloride | 0.5 mmol, 118 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)Cl)C | C9H11ClO3S
reactant | (5-Amino methyl-1,3,4-oxadiazol-2-yl)-[4-(1-methyl-piperidin-4-ylmethyl)-piperazin-1-yl]-methanone trihydrochloride | 0.43 mmol, 200 mg | Cl.Cl.Cl.NCC1=NN=C(O1)C(=O)N1CCN(CC1)CC1CCN(CC1)C
reactant | DIPEA | 2.15 mmol, 376 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-Methoxy-2,6-dimethyl-N-{5-[4-(1-methyl-piperidin-4-ylmethyl)-piperazine-1-carbonyl]-1,3,4-oxadiazol-2-ylmethyl}-benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)NCC=1OC(=NN1)C(=O)N1CCN(CC1)CC1CCN(CC1)C)C | C24H36N6O5S
